US06124323
1-(2-(4-Fluorophenoxy)ethyl)-4-((2-naphthyl)methyl)piperidine hydrochloride
The title compound was prepared from 4-((2-naphthyl)methyl)piperidine hydrochloride (150 mg, 573 μmol), 2-(4-fluorophenoxy)ethyl bromide (132 mg, 602 μmol) and K2CO3 (162 mg, 1.17 mmol) as a colorless solid (126 mg): mp 170-172° C.; 1H NMR (CDCl3) 1.60-1.92 (m, 3H), 2.02-2.41 (m, 2H), 2.65-2.90 (m, 4H), 3.45-3.55 (m, 2H), 3.60-3.71 (m, 2H), 4.51 (t, J=4.2 Hz, 2H), 6.77-7.01 (m, 4H), 7.25 (d, J=6.0 Hz, 1H), 7.40-7.51 (m, 2H), 7.57 (s, 1H), 7.72-7.84 (m, 3H) 12.64 (bs, 1H). Anal. Calcd for C24H27ClFNO: C, 72.08; H, 6.80; N, 3.50. Found: C, 71.73; H, 6.64; N, 3.34.

reactant | 4-((2-naphthyl)methyl)piperidine hydrochloride | 573 μmol, 150 mg | Cl.C1=C(C=CC2=CC=CC=C12)CC1CCNCC1
reactant | 2-(4-fluorophenoxy)ethyl bromide | 602 μmol, 132 mg | FC1=CC=C(OCCBr)C=C1 | C8H8BrFO
reactant | K2CO3 | 1.17 mmol, 162 mg | C(=O)([O-])[O-].[K+].[K+]
product | 1-(2-(4-Fluorophenoxy)ethyl)-4-((2-naphthyl)methyl)piperidine hydrochloride | Cl.FC1=CC=C(OCCN2CCC(CC2)CC2=CC3=CC=CC=C3C=C2)C=C1 | InChI=1S/C24H26FNO.ClH/c25-23-7-9-24(10-8-23)27-16-15-26-13-11-19(12-14-26)17-20-5-6-21-3-1-2-4-22(21)18-20;/h1-10,18-19H,11-17H2;1H
